US07642264B2
6′-Bromo-4-methyl-6-(4-trifluoromethyl-phenyl)-[2,2′]bipyridinyl
The title compound was prepared from 2-iodo-4-methyl-6-(4-trifluoromethyl-phenyl)pyridine (example A.58) (5.81 g, 16 mmol), n-BuLi/ZnBr2 and commercially available 2,6-dibromopyridine (5.31 g, 22.4 mmol) according to Tetrahedron Letters 1996, 37(15), 2537 and the general procedure IVc protocol b. Obtained as a white solid (2.34 g, 37%). MS (ISP) 393.0 [(M+H)+] and 395.0 [(M+2+H)+].

reactant | 2-iodo-4-methyl-6-(4-trifluoromethyl-phenyl)pyridine | 16 mmol, 5.81 g | IC1=NC(=CC(=C1)C)C1=CC=C(C=C1)C(F)(F)F | C13H9F3IN
reactant | 2,6-dibromopyridine | 22.4 mmol, 5.31 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
catalyst | n-BuLi ZnBr2 | [Li]CCCC.[Zn+2].[Br-].[Br-]
product | 6′-Bromo-4-methyl-6-(4-trifluoromethyl-phenyl)-[2,2′]bipyridinyl | BrC1=CC=CC(=N1)C1=NC(=CC(=C1)C)C1=CC=C(C=C1)C(F)(F)F | C18H12BrF3N2
